US08729263B2
To a solution of 6-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)naphthalen-2-ol (208 mg, 0.53 mmol) in DMF (5.3 mL) was added 60% wt NaH (47 mg, 1.17 mmol) followed by allyl iodide (54 μL, 0.59 mmol). The reaction was stirred at RT for 10 min. The crude reaction mixture was diluted with EtOAc. The organic layer was washed with water (5×) and brine, then dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified via HPLC to give 6-(6-(allyloxy)naphthalen-2-yl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine (85 mg). LCMS Rt=1.46 min (condition B); MS (M+1)=431.1. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.37 (d, J=1.5 Hz, 1H), 8.20 (dd, J=8.6, 1.8 Hz, 1H), 7.84 (d, J=8.8 Hz, 1H), 7.83 (d, J=8.6 Hz, 1H), 7.79 (d, J=9.9 Hz, 1H), 7.20-7.25 (m, 1H), 7.19 (d, J=2.3 Hz, 1H), 6.92 (d, J=9.6 Hz, 1H), 6.09-6.23 (m, 1H), 5.51 (dd, J=17.2, 1.5 Hz, 1H), 5.36 (dd, J=10.5, 1.4 Hz, 1H), 5.16-5.31 (m, 1H), 4.66-4.74 (m, 2H), 3.03 (s, 3H), 1.76 (dd, J=12.5, 3.4 Hz, 2H), 1.45-1.53 (m, 2H), 1.41 (s, 6H), 1.24 (s, 6H).

reactant | 6-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)naphthalen-2-ol | 0.53 mmol, 208 mg | CN(C1=CC=C(N=N1)C=1C=C2C=CC(=CC2=CC1)O)C1CC(NC(C1)(C)C)(C)C | C24H30N4O
reactant | NaH | 1.17 mmol, 47 mg | [H-].[Na+]
reactant | allyl iodide | 0.59 mmol, 54 μL | C(C=C)I | C3H5I
solvent | DMF | 5.3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(6-(allyloxy)naphthalen-2-yl)-N-methyl-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyridazin-3-amine | 85 mg | C(C=C)OC=1C=C2C=CC(=CC2=CC1)C1=CC=C(N=N1)N(C1CC(NC(C1)(C)C)(C)C)C | C27H34N4O
